US04195023
A mixture of 2-fluorobenzoyl chloride, from example 4A, above, and 18.5 g (0.09 mole) of sodium saccharin is refluxed in 100 ml of tetrahydrofuran (THF) overnight. The reaction mixture is filtered hot, and the filtrate is concentrated to a partial solid/oil. The product is triturated with ether and air dried to yield 10.3 g of 2-(2-fluorobenzoyl)saccharin, m.p. 148°-151° C.

reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | sodium saccharin | 0.09 mole, 18.5 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-fluorobenzoyl)saccharin | 10.3 g | FC1=C(C(=O)N2S(=O)(=O)C3=CC=CC=C3C2=O)C=CC=C1 | C14H8FNO4S
